US07893073B2
4-{5-Acetyl-6-methyl-2-oxo-1-[3-(trifluoromethyl)phenyl]-1,2,3,4-tetrahydro-4-pyrimidinyl}-benzonitrile
30 g (147 mmol) N-[3-(trifluoromethyl)phenyl]urea, 19.3 g (147 mmol) 4-cyanobenzaldehyde and 14.7 g (147 mmol) 2,4-pentanedione are suspended in 300 ml of tetrahydrofuran, and 90 g polyphosphoric acid ethyl ester are added. The mixture is stirred at reflux for 4 hours. After cooling down to room temperature, the solvent is removed in vacuo, the remainder is dissolved in ethyl acetate and sequentially washed with saturated sodium hydrogencarbonate and sodium chloride solution. The organic phase is dried over magnesium sulfate, filtered and evaporated to dryness in vacuo. The crude product is purified by column chromatography over silica gel (eluent: cyclohexane/ethyl acetate).

reactant | N-[3-(trifluoromethyl)phenyl]urea | 147 mmol, 30 g | FC(C=1C=C(C=CC1)NC(=O)N)(F)F | C8H7F3N2O
reactant | 4-cyanobenzaldehyde | 147 mmol, 19.3 g | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | 2,4-pentanedione | 147 mmol, 14.7 g | CC(CC(C)=O)=O | C5H8O2
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 4-{5-Acetyl-6-methyl-2-oxo-1-[3-(trifluoromethyl)phenyl]-1,2,3,4-tetrahydro-4-pyrimidinyl}-benzonitrile | C(C)(=O)C=1C(NC(N(C1C)C1=CC(=CC=C1)C(F)(F)F)=O)C1=CC=C(C#N)C=C1 | C21H16F3N3O2
